US04883914
Preparation of 2-acetamido-2,3-dimethyl-N-(p-toluenesulfonyl)butyramide-Method A
The reaction mixture is checked for completeness of formation of 4-isopropyl-2,4-dimethyl-1-(p-tolylsulfonyl)-2-imidazolin-5-one by infrared spectroscopy. The product imidazolin-5-one is then hydrolyzed by diluting the solution with 100 mL of methylene cloride and washing twice with water and once with HCl 10%. The organic layer is concentrated in vacuo and the resulting yellowish oily residue is shaken with ether and allowed to stand. Upon standing the title product precipitates as a white solid, which after filtration, washing and drying has a mp of 202°-203° C.

reactant | 4-isopropyl-2,4-dimethyl-1-(p-tolylsulfonyl)-2-imidazolin-5-one | C(C)(C)C1(N=C(N(C1=O)S(=O)(=O)C1=CC=C(C=C1)C)C)C | C15H20N2O3S
reactant | imidazolin-5-one | N1C=NCC1=O | C3H4N2O
solvent | methylene cloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-acetamido-2,3-dimethyl-N-(p-toluenesulfonyl)butyramide | C(C)(=O)NC(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)(C(C)C)C | C15H22N2O4S
